US06562811B1
To a stirred solution of 2-hydroxy-6-nitrobenzaldehyde (4.5 g, 26.926 mmol) was added dropwise trimethylaluminum (2M in toluene, 27 mL) under an argon atmosphere. The mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into a cold (0° C.) aqueous 1N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with brine and dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=9/1) to give 2-(1-hydroxyethyl)-3-nitrophenol as an orange oil (4.660 g, yield; 95%).

reactant | 2-hydroxy-6-nitrobenzaldehyde | 26.926 mmol, 4.5 g | OC1=C(C=O)C(=CC=C1)[N+](=O)[O-] | C7H5NO4
reactant | trimethylaluminum | 2M, 27 mL | C[Al](C)C
reactant | hydrochloric acid | 1N | Cl | ClH
product | 2-(1-hydroxyethyl)-3-nitrophenol | 4.660 g, yield; 95% | OC(C)C1=C(C=CC=C1[N+](=O)[O-])O | C8H9NO4
